US07425568B2
2-(3-Chlorophenyl)-6-hydroxychroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4-one in Example 9(a) starting from 2.0 g of 2′,5′-dihydroxyacetophenone and 1.85 g of 3-chlorobenzaldehyde. The product was recrystallised from acetic acid. 1H NMR (400 MHz, d6-DMSO) δ: 9.47 (s, 1H), 7.62 (s, 1H), 7.51-7.45 (m, 3H), 7.12 (d, 1H, J 3.0 Hz), 7.05 (dd, 1H, J 8.8, 3.0 Hz), 6.98 (d, 1H, J 8.8 Hz), 5.58 (dd, 1H, J 13.1, 2.9 Hz), 3.18 (dd, 1H, J −16.9, 13.1 Hz), 2.81 (dd, 1H, J −16.9, 2.9 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 2.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 3-chlorobenzaldehyde | 1.85 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | 2-(3-Chlorophenyl)-6-hydroxychroman-4-one | ClC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11ClO3
